US05929072
4-Methyl-1-(prop-2-en-1-yl)-1H-2,1,3-benzothiadiazine-2,2-dioxide(2 g) was dissolved in ethanol(50 ml) and treated with sodium borohydride (350 mg) at room temperature. After 15 minutes, the solvent was removed in vacuo and water added(200 ml). The product was extracted with chloroform(3×100 ml), dried, filtered and evaporated in vacuo to give a solid. This was dissolved in dry dimethylformamide (35 ml) and treated with sodium hydride (350 mg) at room temperature for 30 minutes followed by methyl iodide(600 μl). The reaction was stirred at room temperature for 1 hour, poured into water(250 ml), extracted with ether (3×75 ml), dried, filtered and the solvent removed to give 3,4-dihydro-3,4-dimethyl-1-(prop-2-en-1-yl)-1H-2,1,3-benzothiadiazine-2,2-dioxide. This product was dissolved in dioxan (25 ml) and treated with osmium tetroxide (2 crystals) and sodium periodate(3.6 g) in water(25 ml) and stirred at room temperature overnight. Water was added(100 ml) and the product extracted with ether(3×100 ml), dried, filtered and the solvent removed to give an oil. This was dissolved in methanol(50 ml) and treated with 4-(6-fluoroindol-3-yl)-1,2,5,6-tetrahydro-1-pyridine (1.2 g) at room temperature overnight in the presence of acetic acid(1 ml) and 3A molecular sieves(2 g). Sodium cyanoborohydride(1 g) was then added and the reaction stirred for 4 hours. A further quantity of acetic acid (1 ml) and sodium cyanoborohydride(1 g) were added and stirred at room temperature for 18 hours. Saturated sodium bicarbonate (250 ml) was added and the mixture extracted with ethyl acetate (3×100 ml). After drying, filtering and removal of solvent, flash chromatography on the residue eluting with chloroform/ethyl acetate to ethyl acetate gave product, 3,4-dihydro-1-{2-[4-(6-fluoroindol-3-yl)-1,2,5,6-tetrahydro-1-pyridyl]-1-ethyl}-3,4-dimethyl-1H-2,1,3-benzothiadiazine-2,2-dioxide, m.p.105-108° C.

reactant | 4-Methyl-1-(prop-2-en-1-yl)-1H-2,1,3-benzothiadiazine-2,2-dioxide | 2 g | CC1=NS(N(C2=C1C=CC=C2)CC=C)(=O)=O | C11H12N2O2S
reactant | sodium borohydride | 350 mg | [BH4-].[Na+]
reactant | sodium hydride | 350 mg | [H-].[Na+]
reactant | water | 250 ml | O | H2O
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 3,4-dihydro-3,4-dimethyl-1-(prop-2-en-1-yl)-1H-2,1,3-benzothiadiazine-2,2-dioxide | CN1S(N(C2=C(C1C)C=CC=C2)CC=C)(=O)=O | C12H16N2O2S
